US05116941
BOC-Arg(NO2)-CHA, 45.4 g (0.1 mole), was dissolved in 300 ml (0.6 mole) of 2N HCl/AcOH and a small amount of MeOH. The solution was reacted at room temperature for 2 hours. After completion of the reaction, 300 ml of dry ether was added to the reaction mixture to crystallize, whereby 34.9 g (89.4%) of HCl.H-Arg(NO2)-CHA was obtained.

reactant | BOC-Arg(NO2) | N([C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)O)C(=O)OC(C)(C)C | C11H21N5O6
reactant | HCl AcOH | 0.6 mole, 2N, 300 ml | Cl.CC(=O)O
reactant | MeOH | CO | CH4O
solvent | ether | 300 ml | CCOCC | C4H10O
product | H-Arg(NO2) | N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)O | C6H13N5O4
